US07459448B2
[3-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-phenyl]-acetonitrile (I-78)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and N-(3-cyanomethyl-phenyl)-guanidine nitrate were converted to I-78 (6%): HRMS Calcd. for C20H14ClN5O: 376.0965, Found 376.0994.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | N-(3-cyanomethyl-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].C(#N)CC=1C=C(C=CC1)NC(=N)N
product | [3-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-phenyl]-acetonitrile | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC=3C=C(C=CC3)CC#N)=O)C1 | C20H14ClN5O
